US04575504
2-Amino-7-propyl-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine dihydrochloride
This compound was prepared from 2-amino-6-propyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine dihydrochloride, potassium thiocyanate and bromine analogous to Example 1.

reactant | 2-amino-6-propyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine dihydrochloride | Cl.Cl.NC1=CC2=C(CCN(CC2)CCC)S1
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | bromine | BrBr | Br2
product | 2-Amino-7-propyl-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine dihydrochloride | Cl.Cl.NC=1SC2=C(SC=3CCN(CCC32)CCC)N1 | InChI=1S/C12H17N3S2.2ClH/c1-2-5-15-6-3-8-9(4-7-15)16-11-10(8)17-12(13)14-11;;/h2-7H2,1H3,(H2,13,14);2*1H
